US08685969B2
13. 4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 2-((3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid, TFA (38 mg, 0.056 mmol), N,N-diisopropylamine (0.015 mL, 0.085 mmol), BOP (32.5 mg, 0.073 mmol), and N-methylmorpholine (0.024 mL, 0.220 mmol) in DMF (4 mL) was heated at 45° C. for 1 hr. The mixture was diluted with ethyl acetate (60 mL), washed sequentially with water (3×25 mL) and brine (25 mL), and dried over anhydrous MgSO4. After the solvent was removed under vacuum, the residue was purified by prep. Reverse phase HPLC. The correct fraction was concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with CH2Cl2 (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (21.7 mg, 0.039 mmol, 68.2% yield) as a yellow solid. LCMS (M+H)+=541.33. 1H NMR (500 MHz, DMSO-d6) δ: 11.66 (s, 1H), 8.30 (s, 1H), 8.20 (s, 1H), 7.82 (s, 1H), 7.77-7.73 (m, 3H), 7.67 (m, 1H), 7.54 (m, 1H), 7.45 (m, 1H), 7.36 (d, J=2.2 Hz, 1H), 7.14 (d, J=8.9 Hz, 1H), 6.71 (dd, J1=8.7 Hz, J2=2.4 Hz, 1H), 5.04 (d, J=17.5 Hz, 1H), 4.95 (d, J=17.5 Hz, 1H), 4.16 (m, 2H), 3.72 (m, 2H), 3.34 (s, 3H), 1.87 (s, 3H).

reactant | 2-((3-(1-carbamoyl-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indol-4-yl)-2-methylphenylamino)methyl)-5-chlorobenzoic acid | C(N)(=O)C1=NC=C(C2=C1NC1=CC(=CC=C21)OCCOC)C=2C(=C(C=CC2)NCC2=C(C(=O)O)C=C(C=C2)Cl)C | C30H27ClN4O5
reactant | TFA | 0.056 mmol, 38 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N,N-diisopropylamine | 0.085 mmol, 0.015 mL | C(C)(C)NC(C)C | C6H15N
reactant | BOP | 0.073 mmol, 32.5 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-methylmorpholine | 0.220 mmol, 0.024 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3-(6-Chloro-1-oxoisoindolin-2-yl)-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.039 mmol, 21.7 mg, 68.2% yield | ClC1=CC=C2CN(C(C2=C1)=O)C=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C | C30H25ClN4O4
